US04507297
Tert-butoxycarbonyl-L-leucine monohydrate (7.47 g) and 1-(4-methoxy-phenylmethyl)piperazine (6.18 g) were condensed in the same manner as employed in the preparation of tert-butyl (s)-1-(4-diphenylmethylpiperazine-1-yl carbonyl)-3-methylbutylcarbamate to yield 12.0 g of tert-butyl (s)-1-[4-(4-methoxyphenylmethyl)piperazine-1-yl carbonyl]-3-methylbutylcarbamate as a colorless amorphous substance (yield: 95%).

reactant | Tert-butoxycarbonyl-L-leucine monohydrate | 7.47 g | O.C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)O
reactant | 1-(4-methoxy-phenylmethyl)piperazine | 6.18 g | COC1=CC=C(C=C1)CN1CCNCC1 | C12H18N2O
reactant | tert-butyl (s)-1-(4-diphenylmethylpiperazine-1-yl carbonyl)-3-methylbutylcarbamate | C1(=CC=CC=C1)C(N1CCN(CC1)C(=O)[C@H](CC(C)C)NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C28H39N3O3
product | tert-butyl (s)-1-[4-(4-methoxyphenylmethyl)piperazine-1-yl carbonyl]-3-methylbutylcarbamate | 12.0 g, yield: 95% | COC1=CC=C(C=C1)CN1CCN(CC1)C(=O)[C@H](CC(C)C)NC(OC(C)(C)C)=O | C23H37N3O4
